* Block 07: Zener Clamp — No PTAT, 5-device, FF 150C
.title TB_CLAMP_NOCOMP_FF_150

.subckt sky130_fd_pr__model__parasitic__res_po r0 r1 sub w=1 l=1
c0 r0 sub {0.1e-15*w*l}
c1 r1 sub {0.1e-15*w*l}
.ends sky130_fd_pr__model__parasitic__res_po

.lib "../sky130.lib.spice" ff
.temp 150

.subckt zener_clamp_nocomp pvdd gnd
XMd1 pvdd pvdd n4 n4 sky130_fd_pr__nfet_g5v0d10v5 w=2.2e-6 l=4e-6
XMd2 n3   n3   n4 n4 sky130_fd_pr__pfet_g5v0d10v5 w=20e-6 l=4e-6
XMd3 n3   n3   n2 n2 sky130_fd_pr__nfet_g5v0d10v5 w=2.2e-6 l=4e-6
XMd4 n1   n1   n2 n2 sky130_fd_pr__pfet_g5v0d10v5 w=20e-6 l=4e-6
XMd5 n1   n1   vg vg sky130_fd_pr__nfet_g5v0d10v5 w=2.2e-6 l=4e-6
XRpd vg gnd gnd sky130_fd_pr__res_xhigh_po w=2 l=500
XMclamp pvdd vg gnd gnd sky130_fd_pr__nfet_g5v0d10v5 w=50e-6 l=0.5e-6 m=4
XMf1 pvdd pvdd nf6 gnd sky130_fd_pr__nfet_g5v0d10v5 w=10e-6 l=0.5e-6
XMf2 nf6  nf6  nf5 gnd sky130_fd_pr__nfet_g5v0d10v5 w=10e-6 l=0.5e-6
XMf3 nf5  nf5  nf4 gnd sky130_fd_pr__nfet_g5v0d10v5 w=10e-6 l=0.5e-6
XMf4 nf4  nf4  nf3 gnd sky130_fd_pr__nfet_g5v0d10v5 w=10e-6 l=0.5e-6
XMf5 nf3  nf3  nf2 gnd sky130_fd_pr__nfet_g5v0d10v5 w=10e-6 l=0.5e-6
XMf6 nf2  nf2  nf1 gnd sky130_fd_pr__nfet_g5v0d10v5 w=10e-6 l=0.5e-6
XMf7 nf1  nf1  gnd gnd sky130_fd_pr__nfet_g5v0d10v5 w=10e-6 l=0.5e-6
.ends zener_clamp_nocomp

XDUT pvdd 0 zener_clamp_nocomp
Vpvdd pvdd 0 DC 0
.option method=gear reltol=1e-3 abstol=1e-10 vntol=1e-4
.dc Vpvdd 0 10 0.01

.control
run
echo "=== NO COMP FF 150C ==="
let ipvdd = -i(Vpvdd)
meas dc onset_10u find v(pvdd) when ipvdd=10u rise=1
meas dc onset_1m find v(pvdd) when ipvdd=1m rise=1
echo "onset_10uA: $&onset_10u"
echo "onset_1mA: $&onset_1m"
quit
.endc
.end
